US08530456B2
N-(4-chlorobenzyl)-2-((3R,11S,E)-5,12-dioxo-3-phenyl-1-oxa-4-azacyclododec-8-en-11-yl)acetamide
To a solution of tert-butyl 2-((3R,11S,E)-5,12-dioxo-3-phenyl-1-oxa-4-azacyclododec-8-en-11-yl)acetate (130 mg, 0.336 mmol) in CH2Cl2 (258 μL) cooled in an ice/water bath was added trifluoroacetic acid (116 μL, 1.510 mmol) and the reaction mixture was stirred 1 h at which point LC-MS analysis indicated complete consumption of starting material. The reaction mixture was concentrated and the crude carboxylic acid was utilized immediately. To a solution of crude 2-((3R,11S,E)-5,12-dioxo-3-phenyl-1-oxa-4-azacyclododec-8-en-11-yl)acetic acid (111 mg, 0.335 mmol) in CH2Cl2 (4.2 mL) cooled in an ice/water bath was added EDC (64.2 mg, 0.335 mmol) and HOBt (45.3 mg, 0.335 mmol) and the resulting solution was stirred 30 min 4-chlorobenzylamine (41.0 μL, 0.335 mmol), iPr2NEt (176 μL, 1.005 mmol) and DMAP (4.09 mg, 0.033 mmol) were subsequently added and the reaction mixture was slowly warmed to rt and stirred for 16 h at which point LC-MS analysis indicated complete consumption of starting material. The reaction mixture was diluted with saturated NH4Cl and EtOAc and the layers separated. The aqueous was extracted 2× with EtOAc and the combined organic extracts were washed with 1 N HCl and brine, dried over Na2SO4, filtered, and concentrated. The crude product was purified using silica gel chromatography (MeOH/CH2Cl2 gradient) to yield the desired product as a white solid. 1H NMR (300 MHz, (CD3)2SO): δ 1.95-2.57 (m, 7H), 2.73-2.80 (m, 1H), 3.65 (dd, 1H, J=3.6, 11.3), 4.20 (s, 1H), 4.22 (s, 1H), 4.61 (apparent triplet, 1H, J=11.3), 5.23-5.34 (m, 3H), 7.22-7.24 (m, 9H), 8.25 (d, 1H, J=9.5), 8.41-8.46 (m, 1H); LRMS (M+H)+: 455.1.

reactant | tert-butyl 2-((3R,11S,E)-5,12-dioxo-3-phenyl-1-oxa-4-azacyclododec-8-en-11-yl)acetate | 0.336 mmol, 130 mg | O=C1N[C@@H](COC([C@@H](C/C=C/CC1)CC(=O)OC(C)(C)C)=O)C1=CC=CC=C1 | C22H29NO5
reactant | trifluoroacetic acid | 1.510 mmol, 116 μL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-((3R,11S,E)-5,12-dioxo-3-phenyl-1-oxa-4-azacyclododec-8-en-11-yl)acetic acid | 0.335 mmol, 111 mg | O=C1N[C@@H](COC([C@@H](C/C=C/CC1)CC(=O)O)=O)C1=CC=CC=C1 | C18H21NO5
reactant | EDC | 0.335 mmol, 64.2 mg
reactant | HOBt | 0.335 mmol, 45.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 4-chlorobenzylamine | 0.335 mmol, 41.0 μL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | iPr2NEt | 1.005 mmol, 176 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 258 μL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4.2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.033 mmol, 4.09 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4-chlorobenzyl)-2-((3R,11S,E)-5,12-dioxo-3-phenyl-1-oxa-4-azacyclododec-8-en-11-yl)acetamide | ClC1=CC=C(CNC(C[C@@H]2C/C=C/CCC(N[C@@H](COC2=O)C2=CC=CC=C2)=O)=O)C=C1 | C25H27ClN2O4
